US07153874B2
Step 4: 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine
2-Methyl-4-[2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-ylethynyl]-pyridine and 2-methyl-4-[2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-ylethynyl]-pyridine (2.85 g, 8.7 mmol) were dissolved in 50 mL EtOH saturated with HCl. The reaction mixture was stirred at RT overnight. The solvent was evaporated. The residue was taken up in 50 mL water and adjusted to pH7 by addition of sodium hydroxide. The aqueous phase was extracted three times with ethyl acetate (70 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (methylene chloride/methanol 100:5→85:15 gradient) and the desired compound was obtained as an off-white foam (1.19 g, 69%), MS: m/e=198.2 (M+H+). Method A2:

reactant | 2-Methyl-4-[2-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-ylethynyl]-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(N(C1)COCC[Si](C)(C)C)C | C18H25N3OSi
reactant | 2-methyl-4-[2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-ylethynyl]-pyridine | 8.7 mmol, 2.85 g | CC1=NC=CC(=C1)C#CC=1N(C(=NC1)C)COCC[Si](C)(C)C | C18H25N3OSi
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | HCl | Cl | ClH
product | 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
